US08609656B2
(S)-Pyrrolidine-2-carboxylic acid (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)amide hydrochloride (Table 1, compound No. 99)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and tert-butoxycarbonyl-L-proline by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (S)-Pyrrolidine-2-carboxylic acid (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)amide hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC(=O)[C@H]1NCCC1)=O)C(F)(F)F | InChI=1S/C24H20ClF3N8O2.ClH/c25-17-8-5-14(10-16(17)24(26,27)28)34-23(38)33-13-3-6-15(7-4-13)36-12-32-19-20(30-11-31-21(19)36)35-22(37)18-2-1-9-29-18;/h3-8,10-12,18,29H,1-2,9H2,(H2,33,34,38)(H,30,31,35,37);1H/t18-;/m0./s1
